US05869509
1-(5-Chloro-2-methoxyphenyl)-5-phenyl-2,4-imidazolidinedione (XIV42)
N-(5-Chloro-2-methoxyphenyl)urea (1 g, 5 mmol) and phenylglyoxal monohydrate (760 mg, 5 mmol) were taken up in absolute ethanol (100 ml) and acetic acid (1 ml) and 1 ml of conc. HCl added. The reaction mixture was heated at reflux 3.5 h and allowed to stand at 24° C. for 18 h prior to concentration by rotary evaporation. The residue was dissolved in ethyl acetate, washed with sat'd NaHCO3 solution and brine. Recrystallization from methylene chloride/hexanes gave 1 g (63%) mp 200° C.; IR(KBr, ν=cm-1) 3168, 3064, 1772, 1701, 1504, 1444, 1426, 1408, 1260, 1190, 1150; 1H NMR (300 MHz, CDCl3) δ3.59 (3H, s), 5.60 (1H, s), 6.80 (1H, d, J=8.8 Hz), 7.14-7.37 (7H, m), 8.92 (1H, br.s); MS(DCl)m/z: 317(MH+)

reactant | N-(5-Chloro-2-methoxyphenyl)urea | 5 mmol, 1 g | ClC=1C=CC(=C(C1)NC(=O)N)OC | C8H9ClN2O2
reactant | phenylglyoxal monohydrate | 5 mmol, 760 mg | O.C1(=CC=CC=C1)C(=O)C=O
reactant | HCl | 1 ml | Cl | ClH
reactant | KBr | [K+].[Br-]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 1-(5-Chloro-2-methoxyphenyl)-5-phenyl-2,4-imidazolidinedione | ClC=1C=CC(=C(C1)N1C(NC(C1C1=CC=CC=C1)=O)=O)OC | C16H13ClN2O3
